US09163021B2
[1-Isopropyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methanol
To a solution of 1-Isopropyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid ethyl ester (Preparation 111, 10.2 g, 40.76 mmol) in toluene (200 mL) at −78° C. was added DIBALH (85 mL, 101.91 mmol) dropwise and the reaction allowed to stir at this temperature for 2 hours. 2N HCl was added to quench the reaction followed by extraction into EtOAc. The organic layer was collected, washed with water, brine, dried over sodium sulphate and concentrated in vacuo to afford the title compound (8.3 g) that was taken directly on to the next step.

reactant | 1-Isopropyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 40.76 mmol, 10.2 g | C(C)OC(=O)C=1C(=NN(C1)C(C)C)C(F)(F)F | C10H13F3N2O2
reactant | DIBALH | 101.91 mmol, 85 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 2N | Cl | ClH
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | [1-Isopropyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methanol | 8.3 g | C(C)(C)N1N=C(C(=C1)CO)C(F)(F)F | C8H11F3N2O
